US09085555B2
[3-(2,2,2-Trifluoro-acetyl)-indol-1-yl]-acetic acid
was prepared from 2,2,2-trifluoro-1-(1H-indol-3-yl)-ethanone in a similar manner as described in Scheme A13 (step B and C) for the preparation of (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid. White solid. MS: 272.0 [M+H]+; tR (HPLC conditions c): 4.59 min.

reactant | 2,2,2-trifluoro-1-(1H-indol-3-yl)-ethanone | FC(C(=O)C1=CNC2=CC=CC=C12)(F)F | C10H6F3NO
reactant | (3-acetyl-5-trifluoromethoxy-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OC(F)(F)F)CC(=O)O | C13H10F3NO4
product | [3-(2,2,2-Trifluoro-acetyl)-indol-1-yl]-acetic acid | FC(C(=O)C1=CN(C2=CC=CC=C12)CC(=O)O)(F)F | C12H8F3NO3
